US04939133
N-[4-[2-(3,4-Dihydroxyphenyl)ethyl]phenyl]-2-hydroxy-4-methylbenzamide
A mixture of 2,2,7-trimethyl-4H-1,3,2-benzodioxasilin-4-one (2.0 g, 10 mmole) and 4-[2-[3,4-bis[(trimethylsilyl)oxy]phenyl]ethyl]benzenamine (3.0 g, 8 mmol) is heated under argon to 180° C. After three hours the mixture is cooled, triturated with pentane and filtered. The collected solid is rinsed several times with pentane and dried. Recrystallization from isopropanol gave the pure product (1.4 g), mp 201°-202° C.

reactant | 2,2,7-trimethyl-4H-1,3,2-benzodioxasilin-4-one | 10 mmole, 2.0 g | C[Si]1(OC2=C(C(O1)=O)C=CC(=C2)C)C | C10H12O3Si
reactant | 4-[2-[3,4-bis[(trimethylsilyl)oxy]phenyl]ethyl]benzenamine | 8 mmol, 3.0 g | C[Si](OC=1C=C(C=CC1O[Si](C)(C)C)CCC1=CC=C(C=C1)N)(C)C | C20H31NO2Si2
product | N-[4-[2-(3,4-Dihydroxyphenyl)ethyl]phenyl]-2-hydroxy-4-methylbenzamide | 1.4 g | OC=1C=C(C=CC1O)CCC1=CC=C(C=C1)NC(C1=C(C=C(C=C1)C)O)=O | C22H21NO4
